US08541404B2
To a solution of bis(pinacolato)diboron (1.75 g, 6.90 mmol), potassium acetate (1.96 g, 20.0 mmol) and [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) (158 mg, 0.19 mmol) in 50 ml degassed DMSO was added 8-bromo-1,2,5,6-tetrahydro-pyrrolo[3,2,1-ij]quinolin-4-one (1.58 g, 6.30 mmol) under an atmosphere of nitrogen, and the mixture was stirred for 2 h at 80° C. After cooling to ambient temperature the solution was poured into 100 ml water and extracted with ethyl acetate (3×100 ml). The combined organic layers were washed with water (3×100 ml), dried over MgSO4 and concentrated in vacuo to give the crude product which was crystallized from acetone to yield pure 8-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,2,5,6-tetrahydro-pyrrolo[3,2,1-ij]quinolin-4-one (1.40 g, 4.68 mmol, 74%) as pale yellow plates.

reactant | bis(pinacolato)diboron | 6.90 mmol, 1.75 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 20.0 mmol, 1.96 g | C(C)(=O)[O-].[K+]
reactant | DMSO | CS(=O)C | C2H6OS
reactant | 8-bromo-1,2,5,6-tetrahydro-pyrrolo[3,2,1-ij]quinolin-4-one | 6.30 mmol, 1.58 g | BrC=1C=C2CCC(N3C2=C(C1)CC3)=O | C11H10BrNO
catalyst | [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.19 mmol, 158 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 100 ml | O | H2O
product | 8-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,2,5,6-tetrahydro-pyrrolo[3,2,1-ij]quinolin-4-one | 4.68 mmol, 1.40 g, 74% | CC1(OB(OC1(C)C)C=1C=C2CCC(N3C2=C(C1)CC3)=O)C | C17H22BNO3
